Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:6](=[O:7])[H:18])[H:17])[H:11])([C:5]([H:8])([H:15])[H:16])([H:9])[H:10],98.4966882178488
[C:1]([C@@:2]([O:3][H:11])([O:6][C:5](=[C:4]([H:12])[H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],50.740584011228094
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[C:2]1([H:8])([H:9])[C@@:3]2([H:10])[C:4]([H:11])([H:12])[C@:5]1([H:14])[O:6]2.[O:1]([H:7])[H:13],90.0086467799551
[C:1]([C:4](=[C:3]=[C:2]([H:10])[H:11])[C:5]#[C:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],72.53311151432527
[C:1]([C@:2]1([H:12])[C:3]([H:11])=[C:4]1[O:5][H:13])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:15]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10],71.69730924962138
[C:1]([C:2]([O:3][H:11])=[C:4]([O-:5])[C:6]#[O+:7])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],11.516194006900019
[C:1]([H:8])([H:9])[H:10].[C@:2]1([O:7][C:5]([C:6]([H:15])([H:16])[H:17])[H:14])([H:11])[C:3]([H:12])([H:13])[O:4]1>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10],5.851618923031992
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[O:4])([H:7])([H:8])[H:9].[H:10][H:12].[N:5](=[C:6]([H:13])[H:14])[H:11],62.9438600441729
[C:1]1([H:7])([H:8])[C-:2]([H:9])[C:3]([H:10])([H:11])[C:4]2=[O+:5][C@@:6]12[H:12]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12],33.38415880626448
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:4]2([C:3]([O:5][H:14])([H:12])[H:13])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],86.0508617957184
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:5](=[C:4]=[C:2]=[O:3])[C:6]#[N:7])([H:8])[H:9],60.6065426990326
[C:1]([C:2](/[C:3](=[N:4]/[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:15]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],67.10607018664629
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])/[C:4](=[N:5]/[H:12])[C:7]#[C:6]1)[H:8],76.5834688743867
[N:4]#[N:5].[O-:1][C:2](=[C+:3][H:7])[H:6]>>[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6],4.620680980490896
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[H:7][H:11].[O:1]=[N:2][C:3]1=[C:6]([H:12])[N:5]([H:10])[C:4]1([H:8])[H:9],46.8654043100169
[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7]>>[O:1]([C-:2]=[C:3]=[C+:4][C:5](=[O:6])[H:8])[H:7],72.4119718452627
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:7]([H:13])=[C:6]([H:12])[C:4]1=[O:5])([H:8])([H:9])[H:10],58.5972106642324
[O:1]([C+:2]([N:3]([C-:4]([C:5]#[C:6][H:11])[H:9])[H:8])[H:7])[H:10]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],0.5648132099519998
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C+:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C-:5])[H:11].[C:1]([C:6](=[O:7])[H:15])([H:8])([H:9])[H:10],112.937404224457
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8]>>[H:8][H:11].[O:1]=[C:2]([C@@:3]1([H:10])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:9],79.55427688265951
[O:1]([C:2]([C@@:3]1([H:11])[C@:4]([O:5][H:14])([H:13])[C:6]1=[C:7]([H:12])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],91.11703810875997
[N:1]([C:2](=[O+:3][C-:4]([C:5]#[C:6][H:11])[H:9])[H:8])([H:7])[H:10]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7],5.782271820461304
[N:1]([C+:2]=[C:3]([O-:4])[H:9])([H:7])[H:8].[N:5]#[N:6]>>[N:1]([c:2]1[c:3]([H:9])[o:4][n:5][n:6]1)([H:7])[H:8],11.65838689752698
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([N:2]([C:3][O:4][H:11])[H:10])([H:7])([H:8])[H:9],53.5913481397988
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[C:4]=[N:5][H:13])[H:12])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],83.1021676024225
